US04018780
A mixture of 150 g. of crude 2-bromodibenzothiophene-5-oxide, 160 g. of cuprous bromide and 1700 ml. of ammonium hydroxide is heated at 200° C. in a pressure reactor for about 12 hours. The mixture is then filtered, and the residue is washed with water, then heated in methanol and filtered hot. The product is recrystallized by cooling and separated by filtration to give 2-aminodibenzothiophene-5-oxide, m.p. 169°-172° C.

reactant | 2-bromodibenzothiophene-5-oxide | BrC1=CC2=C(S(C3=C2C=CC=C3)=O)C=C1 | C12H7BrOS
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-aminodibenzothiophene-5-oxide | NC1=CC2=C(S(C3=C2C=CC=C3)=O)C=C1 | C12H9NOS
